US03984397
2,2,2-Trichloroethyl 2-methyl-2,3-methylene-6-(4-acetamidobenzenesulfonamido)penam-3-carboxylate (1.09 g.), acetic acid (1.5 ml.) and zinc powder (1.2 g.) were treated in the similar manner as described in Example 1 and the residue was crystallized using ethyl acetate to give 2-methyl-2,3-methylene-6-(4-acetamidobenzenesulfonamido)penam-3-carboxylic acid (0.5 g.), mp. 230°C (dec.).

reactant | 2,2,2-Trichloroethyl 2-methyl-2,3-methylene-6-(4-acetamidobenzenesulfonamido)penam-3-carboxylate | 1.09 g | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NS(=O)(=O)C3=CC=C(C=C3)NC(C)=O)=O | C18H18Cl3N3O6S2
catalyst | zinc | 1.2 g | [Zn] | Zn
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-2,3-methylene-6-(4-acetamidobenzenesulfonamido)penam-3-carboxylic acid | 0.5 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NS(=O)(=O)C3=CC=C(C=C3)NC(C)=O)=O | C16H17N3O6S2
